Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Hydrocodone
 
Attending: ___.
 
Chief Complaint:
Fever, wound evaluation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ y/o female with a history of HLD, CAD s/p
CABG and multivessel PCI, GERD, DM who was discharged yesterday
and now presents with fever to 100.4 and lethargy. 

Patient was admitted to ___ on ___ for RUQ abdominal
pain and bilious emesis. LFTs were normal. RUQUS showed
cholelithiasis with distended gallbladder, dilated CBD. ___
performed a percutaneous cholecystostomy and placement of an 8 
Fr
pigtail catheter. MRCP showed acute gangrenous cholecystitis 
with
well positioned perc chole tube, persistent mild distension of
the gallbladder lumen and new perihepatic ascites c/f leak 
around
the tube. Cultures from perc cholecystostomy grew e.coli, and 
she
was treated with IV Zosyn, transitioned to PO Bactrim on ___
prior to discharge to rehab. Plan was to continue Bactrim with
plan for cholecystectomy as an outpatient in ___ weeks. 

While at rehab, patient developed a fever to 100.4 and lethargy
with mild confusion. Patient reports that her only symptom was
RUQ abdominal pain, which she says was actually improved from
when she was in the hospital. She denies productive cough, chest
pain, dyspnea, diarrhea, constipation, and new rashes. 

In the ED, initial vitals were T 98.7, HR 96, BP 119/44, HR 18,
O2 94% RA. Exam notable inattentiveness, distended abdomen but
nontender, and per chole drain with 50cc bloody fluid. Labs
notable for WBC 14.8 (increased from 13.4 on discharge
yesterday), Hgb 10.6, Plt 95 (increased from ___ yesterday), Cr
0.9, Na 134, LFTs normal (ALT 30, AST 37, Tbili 0.4), lactate
1.6. Blood cx x2 are pending and urine cx pending. 

CXR showed: Opacity at the right lung base, new from prior could
represent a right pleural effusion with associated atelectasis,
difficult to exclude subjacent pneumonia. 

___ was consulted and examined the patient. They felt the perc
cholecystostomy site was c/d/I, and that the drain was
functioning properly. 

She was broadened from her home Bactrim to IV 
vanc/ceftaz/flagyl.

Upon arrival to the floor, the patient provides the above
history. She endorses mild RUQ abdominal pain. Her catheter
drainage bag was emptied for 75 cc of purulent material.
 
Past Medical History:
 -HLD  
 -CAD s/p CABG and multiple PCI  
 -HTN  
 -DM  
 -OA  
 -GERD  
 -s/p partial hysterectomy (remote)  
 *is scheduled for right rotator cuff repair soon  
 
Social History:
___
Family History:
 -Mother: CHF  
 -Father: died of stroke  
 -Brother: died of leukemia  
 -Brother: died of lung disease (heavy smoker)  
 -Brother: living, has DM  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS:  98.9, BP 107 / 66, HR 94, RR 19, ___ 
General: Alert, oriented x3, appears slightly lethargic but
answers questions appropriately 
HEENT: Sclerae anicteric, MMM 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally  
Abdomen: Soft, non-distended. Mild tenderness to mild palpation
in the RUQ. There is a catheter extending from right flank
attached to a drainage bag with serosanguinous output. 
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: No facial rashes  
Neuro: Normal speech  

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 724)
    Temp: 98.4 (Tm 98.8), BP: 103/59 (98-124/59-77), HR: 68
(68-83), RR: 16 (___), O2 sat: 97% (95-98), O2 delivery: RA,
Wt: 176.9 lb/80.24 kg    

General: AOx3. Sitting up in chair at bedside, eating breakfast.
HEENT: Sclerae anicteric, MMM 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: No increased work of breathing, with diminished breath
sounds at R lung base. Bibasilar inspiratory crackles, lungs
otherwise clear.
Abdomen: Soft, non-distended, non-tender. Perc chole catheter
extending from right flank attached to a drainage bag with small
amount of cloudy yellow fluid, site c/d/i.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema
Skin: No rashes  
Neuro: Normal speech  
 
Pertinent Results:
===================
LABS
===================
ADMISSION LABS
___ 07:30AM BLOOD WBC-13.4* RBC-3.75* Hgb-10.2* Hct-32.0* 
MCV-85 MCH-27.2 MCHC-31.9* RDW-13.6 RDWSD-42.3 Plt Ct-92*
___ 08:30PM BLOOD Neuts-73.9* Lymphs-9.1* Monos-12.8 
Eos-1.2 Baso-0.5 Im ___ AbsNeut-10.92* AbsLymp-1.35 
AbsMono-1.89* AbsEos-0.17 AbsBaso-0.08
___ 07:30AM BLOOD Glucose-163* UreaN-13 Creat-0.8 Na-133* 
K-4.1 Cl-97 HCO3-20* AnGap-16
___ 07:30AM BLOOD Albumin-3.0* Calcium-8.2* Phos-2.1* 
Mg-1.9
___ 07:30AM BLOOD ALT-26 AST-50* LD(LDH)-337* AlkPhos-63 
TotBili-0.7
___ 07:30AM BLOOD Hapto-423*

DISCHARGE LABS
___ 06:35AM BLOOD WBC-10.8* RBC-3.97 Hgb-10.6* Hct-34.1 
MCV-86 MCH-26.7 MCHC-31.1* RDW-14.3 RDWSD-44.3 Plt ___
___ 06:35AM BLOOD Glucose-79 UreaN-14 Creat-0.8 Na-142 
K-4.7 Cl-107 HCO3-24 AnGap-11
___ 06:35AM BLOOD Calcium-9.3 Phos-4.1 Mg-2.2

MICROBIOLOGY
___ BCx negative x2
___ urine culture negative
___ 11:07 am BILE

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   FLUID CULTURE (Final ___: 
      ESCHERICHIA COLI. 
         Identification and susceptibility testing performed on 
culture # 
         ___ ___. 

   ANAEROBIC CULTURE (Final ___: 
      BACTEROIDES FRAGILIS GROUP.    SPARSE GROWTH. 
         BETA LACTAMASE POSITIVE. 

___ MRSA swab negative

___ 12:09 pm SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   RESPIRATORY CULTURE (Final ___: 
      MODERATE GROWTH Commensal Respiratory Flora. 

___ C. diff negative

___ 11:58 am BILE

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary): 
      GRAM NEGATIVE ROD(S). 
         Isolated from broth media only, INDICATING VERY LOW 
NUMBERS OF
         ORGANISMS. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

___ 10:30 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      YEAST.    >100,000 CFU/mL. 

___ C. diff negative

===================
IMAGING
===================
___ CXR
IMPRESSION: 
Opacity at the right lung base, new from prior could represent a 
right pleural
effusion with associated atelectasis, difficult to exclude 
subjacent
pneumonia.

___ RUQUS
IMPRESSION:
1. The cholecystostomy tube appears to terminate within a 
collapsed
gallbladder lumen.  There is a small amount of fluid within the 
gallbladder
fundus.
2. Trace perihepatic ascites.

___ T-Tube cholangiogram
IMPRESSION: 
Patent cystic duct with contrast passing into the small bowel.  
No evidence of
leak.

___ CXR
IMPRESSION: 
Persistent right lower lobe opacity, concerning for pneumonia.
Moderate right pleural effusion, unchanged.
 
 
Brief Hospital Course:
P - Patient summary statement for admission
===================================
___ with PMH of HLD, CAD s/p CABG and multiple PCI, GERD, HTN, 
DM recently admitted with acute cholecystitis, improved on 
conservative management (percutaneous cholecystostomy and 
antibiotics) and discharged to rehab on ___ on bactrim, 
represented on ___ with lethargy and temp to 100.4, found to 
have mild bump in WBC most likely ___ resistance to bactrim vs 
pneumonia.

A - Acute medical/surgical issues addressed
===================================
# Leukocytosis
# Fever
# Lethargy, resolved
Presented after having a temp of 100.4 and AMS/lethargy at rehab 
and a WBC bump from 13.4 -> 14.8 the day after being 
transitioned from IV antibiotics to PO bactrim. Suspect most 
likely ___ pneumonia given new productive cough, admission CXR 
with ?consolidation at R base and diminished breath sounds at R 
base, vs poor source control of existing cholecystitis on PO 
Bactrim. UA bland and no urinary symptoms. C. diff negative. She 
was initially treated with IV vancomycin, ceftazidime, and 
flagyl. Admission bile cultures grew E. coli likely the same 
source of infection as identified during prior admission. ___ 
UA bland, C. diff negative, BCx and UCx cultures no growth at 
time of discharge. Per ID recommendations, she was transitioned 
from IV antibiotics to PO cefpodoxime and flagyl for coverage of 
E. coli and anaerobes that are likely present. Patient was 
afebrile and feeling well without significant abdominal pain at 
time of discharge. Leukocytosis downtrended during inpatient 
stay, was 10.8 at time of discharge.

# Acute gangrenous cholecystitis
Recently admitted for acute cholecystitis with percutaneous 
cholecystostomy by ___. Per ___, perc chole continues to be 
draining well, no acute intervention at this time. Abd US 
without abscess or new intrahepatic fluid collection. Tube study 
without evidence of leak. ACS re-consulted, recommend continuing 
conservative management. Plan for cholecystectomy in ___ weeks. 
Bile culture on previous admission grew E. coli sensitive to 
ceftriaxone, discharged on Bactrim to rehab on ___. On 
re-admission she received IV vanc/ceftazidime/flagyl before 
being transitioned to PO cefpodoxime and flagyl per ID 
recommendations, as above. Throughout admission she had minimal 
RUQ pain and benign abdominal exam. She received acetaminophen 
1000mg Q6H PRN for pain and simethicone prn for case. Physical 
Therapy evaluated her and recommended discharge back to rehab.

# Hypoxia
# Right lung base opacity
# Pneumonia
Atalectasis vs R pleural effusion vs pneumonia on admission CXR. 
Possible pneumonia and new productive cough noted on ___. Pt 
remains on broad abx as above, and will monitor for respiratory 
symptoms. Sputum Gram stain with GNRs, culture pending. 
Initially required 2L O2 NC, now satting well on RA. MRSA swab 
negative. Sputum culture only growing commensal respiratory 
flora. Treated with incentive spirometer and antibiotics, as 
above. ___ CXR with persistent R lower lobe opacity concerning 
for pneumonia.

# Hyponatremia, resolved
Likely hypovolemic in setting of recent infection, corrected 
after 500 cc LR bolus.

C - Chronic issues pertinent to admission
===================================
# CAD: Pt has an extensive history of CAD with chronic stable 
angina s/p CABG in ___, and most recently DES to PL in ___. Positive cardiac stress test (___) but was not felt to 
have disease amenable to PCI. Cardiology was consulted during 
last admission when urgent surgical intervention was being 
considered, they recommended holding clopidogrel for 3 days 
prior to cholecystectomy if warranted. During this admission, 
continued home ASA, clopidogrel 75mg QD, simvastatin. Continued 
home metoprolol at reduced dose and held home Lasix in setting 
of infection and relative hypotension. Resumed home Lasix prior 
to discharge. She had one episode of chest pain the night of 
___ that resolved after SL nitro x1, ECG without new ischemic 
changes and trop negative.

# Insomnia
- Was started on trazodone QHS PRN for insomnia. Per pt request, 
this was continued at time of discharge.

CHRONIC/STABLE PROBLEMS: 
# DM2: On home Humalog ___ 90 units SC BID. Dose reduced on 
admission in the setting of decreased PO intake. Discharged on 
Humalog ___ 75 units SC BID.

#HTN
- Dose reduced home metoprolol from 100mg daily to 50mg daily in 
the setting of soft pressures. Consider uptitrating back to 
prior dose as tolerated by her BPs.
- Held isosorbide mononitrate, but restarted prior to discharge 
given stable BPs.
- Held Lasix on admission in the setting of infection, but 
restarted prior to discharge given stable BP.

#HLD
- Continued home simvastatin 5mg po daily.

#OSA
- Continued CPAP at night

#GERD
- Continued home ranitidine 300mg po daily.

#Vitamin D Deficiency
- On home 50,000 ergocalciferol q2 weeks.

#Chronic Pain
#Diffuse Osteoarthritis
- Hold home tramadol 50mg po TID in setting of lethargy 
- Continue home gabapentin 200 mg qAM and 300 mg qPM

#Asthma
#Allergic Rhinitis
- Continued home albuterol inhalers prn and cetirizine.

#Depression
- Continued home venlafaxine 150mg po daily

T - Transitional Issues
===================================
[] Please check QACHS blood glucose levels at rehab. Adjust 
insulin regimen as needed (was dose reduced from admission).
[] Plan for cholecystectomy after acute infection: We will 
continue antibiotic treatment with Bactrim (sensitive on bile 
culture) until patient follows up with surgery in clinic. At 
time of discharge, pt had outpatient surgery follow up scheduled 
for ___. Percutaneous cholecystostomy tube management per 
surgery team.
[] Per cardiology inpatient team, Plavix should be stopped 3 
days prior to surgery. Please confirm this plan at outpatient 
cardiology visit on ___.
[] F/u BP in 1 week: metoprolol was dose reduced from 100 to 50 
this admission in the setting of c/f infection. Increase back to 
100mg as tolerated.
[] f/u electrolytes in 1 week: Lasix and home PO K were held on 
admission in the setting of infection. Restarted prior to 
discharge.
[] Consider changing to high intensity statin if able given 
significant cardiovascular disease.

#CODE: Full, confirmed 
#CONTACT: ___ (husband) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN asthma 
2. Aspirin 81 mg PO DAILY 
3. Cetirizine 10 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
6. Furosemide 20 mg PO DAILY 
7. Niacin 500 mg PO BID 
8. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
9. Nystatin-Triamcinolone Cream 1 Appl TP QID:PRN rash 
10. Ranitidine 300 mg PO DAILY 
11. Simvastatin 5 mg PO QPM 
12. TraMADol 50 mg PO TID 
13. Venlafaxine XR 150 mg PO DAILY 
14. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 
15. Sulfameth/Trimethoprim DS 2 TAB PO/NG BID 
16. Vitamin D ___ UNIT PO EVERY 2 WEEKS (MO) 
17. Flovent HFA (fluticasone) 220 mcg/actuation inhalation BID 
18. Metoprolol Succinate XL 100 mg PO DAILY 
19. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
20. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line 
21. Senna 8.6 mg PO BID:PRN Constipation - First Line 
22. Humalog ___ 75 Units Breakfast
Humalog ___ 75 Units Bedtime
23. Gabapentin 200 mg PO QAM 
24. Gabapentin 300 mg PO QHS 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 400 mg PO Q12H  
2.  MetroNIDAZOLE 500 mg PO Q8H  
3.  Humalog ___ 50 Units Breakfast
Humalog ___ 50 Units Bedtime 
4.  Metoprolol Succinate XL 50 mg PO DAILY  
5.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever  
6.  Albuterol Inhaler 2 PUFF IH Q6H:PRN asthma  
7.  Aspirin 81 mg PO DAILY  
8.  Cetirizine 10 mg PO DAILY  
9.  Clopidogrel 75 mg PO DAILY  
10.  Flovent HFA (fluticasone) 220 mcg/actuation inhalation BID  

11.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
12.  Furosemide 20 mg PO DAILY  
13.  Gabapentin 200 mg PO QAM  
14.  Gabapentin 300 mg PO QHS  
15.  Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY  
16.  Niacin 500 mg PO BID  
17.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
18.  Nystatin-Triamcinolone Cream 1 Appl TP QID:PRN rash  
19.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line  
20.  Ranitidine 300 mg PO DAILY  
21.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
22.  Simvastatin 5 mg PO QPM  
23.  TraMADol 50 mg PO TID  
24.  Venlafaxine XR 150 mg PO DAILY  
25.  Vitamin D ___ UNIT PO EVERY 2 WEEKS (MO)  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
====================
Acute gangrenous cholecystitis
Pneumonia

SECONDARY DIAGNOSES
====================
Coronary artery disease
Insomnia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 
It was a privilege caring for you at ___. 

WHY WAS I IN THE HOSPITAL? 
- You were admitted to the hospital because you had a fever and 
were not feeling well at rehab.

WHAT HAPPENED TO ME IN THE HOSPITAL? 
- The Interventional Radiology team evaluated your percutaneous 
cholecystostomy (tube in the gallbladder to drain bile) and 
found that it was working properly. Imaging showed that it was 
in the correct location and there was no tube leak.
- Lab tests showed that you still have an infection with E. coli 
in the gallbladder. There is no additional infection with other 
types of bacteria.
- You developed a cough and a chest x-ray showed that you might 
also have a small pneumonia (lung infection).
- You received IV antibiotics to treat your cholecystitis as 
well as pneumonia. Your fever resolved and you felt better. You 
were transitioned to two different oral antibiotics than the one 
you were discharged on last week.
- You worked with Physical Therapy who recommended that you go 
to ___ rehab to regain your strength before returning 
home.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL? 
- Please continue to take all of your medications and follow-up 
with your appointments as listed below.
- You are going to need to continue your antibiotics until you 
have your gallbladder surgery (cholecystectomy). This will 
likely be in ___ weeks, but an exact date will be decided when 
you see Dr. ___ in clinic on ___.
- You will need to keep the gallbladder drain in place until 
your follow-up appointment with the surgery team. You will have 
help draining this at rehab.
- Please discuss with your cardiologist and their team about 
timing of stopping your Plavix prior to surgery.

We wish you the best! 

Sincerely, 
Your ___ Team
 
Followup Instructions:
___